US08664253B2
Ethyl(1S,2S)-2-(4-bromophenyl)cyclopropanecarboxylate
To a 1-neck, 1-L round bottom flask equipped with a magnetic stirrer was added 265 mL methyl tert-butyl ether. The flask was evacuated and flushed with nitrogen three times. 2,2′-Isopropylidenebis[(4R)-4-tert-butyl-2-oxazolidine] (2.39 g, 8.03 mmol) was added, followed by copper(I) tridluoromethanesulfonate benzene complex (4.49 g, 8.03 mmol). The green suspension was stirred at room temperature for about 2 hours and was then filtered. The filtrate was added to a 4-neck, 5-L, round bottom flask equipped with a mechanical stirrer, thermocouple, nitrogen bubbler, and addition funnel. Then, 4-bromostyrene (150 g, 0.803 mol) was added to this solution and the reaction was cooled to 0° C. via an ice/water bath. Ethyl diazoacetate (167 mL, 1.606 mol) was dissolved in 1675 mL of MTBE and the solution was evacuated/flushed with nitrogen three times. This solution was then added to an addition funnel and added dropwise to the reaction mixture. A slight exotherm was observed. The ethyl diazoacetate was allowed to add slowly over the weekend and the reaction slowly warmed to room temperature. The reaction was poured into a large extractor and diluted with 4 L MTBE. The organics were washed with 2×1 L 3% aq. ammonium hydroxide and 2 L brine, dried over anhydrous magnesium sulfate, filtered, and concentrated. The residue was dissolved in heptane and a small amount of dichloromethane, injected onto an ISCO 1500 g column prepacked in heptane. The column was eluted with 100% heptane over 1 column volume, 0-20% ethyl acetate/heptane over 6.5 column volumes, and held at 20% ethyl acetate/heptane over 8 column volumes. The product containing fractions were collected and concentrated to give 191 g (yield 88%) of the title compound. 1H NMR (500 MHz, (CDCl3): 7.42 (d, 2H), 7.01 (d, 2H), 4.21 (q, 2H), 2.49 (m, 1H), 1.88 (m, 1H), 1.62 (m, 2H), 1.25 (t, 3H).

reactant | 4-bromostyrene | 0.803 mol, 150 g | BrC1=CC=C(C=C)C=C1 | C8H7Br
reactant | Ethyl diazoacetate | 1.606 mol, 167 mL | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
solvent | MTBE | 1675 mL | CC(C)(C)OC | C5H12O
solvent | MTBE | 4 L | CC(C)(C)OC | C5H12O
solvent | methyl tert-butyl ether | 265 mL | C(C)(C)(C)OC | C5H12O
product | Ethyl(1S,2S)-2-(4-bromophenyl)cyclopropanecarboxylate | 191 g, yield 88% | BrC1=CC=C(C=C1)[C@@H]1[C@H](C1)C(=O)OCC | C12H13BrO2
